US09278983B2
A mixture of N2-methyl-5-trifluoromethylpyridin-2,3-diamine (1.91 g), 2-fluorobenzaldehyde (1.86 g), sodium hydrogen sulfite (1.56 g), and DMF (10 ml) was stirred with heating under reflux at 153° C. for 3 hours. Into the reaction mixture cooled to room temperature, water was poured, and extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to give 0.89 g of 2-(2-fluorophenyl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine (Compound (1E)-F1).

reactant | N2-methyl-5-trifluoromethylpyridin-2,3-diamine | 1.91 g | CNC1=NC=C(C=C1N)C(F)(F)F | C7H8F3N3
reactant | 2-fluorobenzaldehyde | 1.86 g | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | sodium hydrogen sulfite | 1.56 g | S(=O)(O)[O-].[Na+]
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(2-fluorophenyl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 0.89 g | FC1=C(C=CC=C1)C1=NC=2C(=NC=C(C2)C(F)(F)F)N1C | C14H9F4N3
